US06265398B1
Preparation of 2-amino-6-methoxytetralin
6.0 g (30 mmol) of 2-azido-6-methoxytetralin 15 ml of TMF were added dropwise in the course of 15 minutes at 0° C. to a suspension of 1.7 g (44 mmol) of lithium aluminum hydride in 70 ml of THF. The mixture was stirred for 30 minutes at room temperature and refluxed for 1 hour. After cooling to 0° C., excess alanate was destroyed with isopropanol, and the mixture was diluted with ether and washed with saturated tartrate and saturated NaCl solution. After the organic phase had been dried and concentrated, the resulting colorless oil was further employed directly. Yield 5.1 g (96% of theory).

reactant | 2-azido-6-methoxytetralin | 30 mmol, 15 ml, 6.0 g | N(=[N+]=[N-])C1CC2=CC=C(C=C2CC1)OC | C11H13N3O
reactant | lithium aluminum hydride | 44 mmol, 1.7 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 70 ml | C1CCOC1 | C4H8O
product | 2-amino-6-methoxytetralin | NC1CC2=CC=C(C=C2CC1)OC | C11H15NO
